US06359143B1
208 g of a 50% aqueous hydroxylamine solution and 91 ml of 28% aqueous ammonia were added to 350 ml of water, into which 348 g of methyl acetoacetate was dropped over 50 minutes at temperature below 15° C. After the completion of the dropping, the reaction solution returned to room temperature and stood undisturbed for 6 days to give 900 ml of an aqueous solution of crude ammonium salt of 5 -hydroxy-3-methyl-4-(3-methylisooxazol-5-yl)isoxazole.

reactant | hydroxylamine | NO | H3NO
reactant | ammonia | 91 ml | N | H3N
reactant | methyl acetoacetate | 348 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | water | 350 ml | O | H2O
product | 5 -hydroxy-3-methyl-4-(3-methylisooxazol-5-yl)isoxazole | OC1=C(C(=NO1)C)C1=CC(=NO1)C | C8H8N2O3
